US04476308
1.5 g of (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide are heated to reflux for 20 minutes with 13.5 ml of acetyl chloride and 25 ml of chloroform. The mixture is evaporated. The residue is treated four times with toluene and in each case again evaporated. There is obtained (R/S)-2-(3-acetoxy-2-oxo-1-pyrrolidinyl)acetamide which melts at 116°-117° after crystallization from diethyl ether.

reactant | (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide | 1.5 g | OC1C(N(CC1)CC(=O)N)=O | C6H10N2O3
reactant | acetyl chloride | 13.5 ml | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | (R/S)-2-(3-acetoxy-2-oxo-1-pyrrolidinyl)acetamide | C(C)(=O)OC1C(N(CC1)CC(=O)N)=O | C8H12N2O4
